US05109012
2-(2,6-Dichloro-4-trifluoromethylphenyl)-4-mercaptomethyl-2H-1,2,3-triazole, prepared as in EP No. 350 237, (0.33 g) and sodium hydroxide (0.04 g) were stirred in dioxane (2 ml) and water (1 ml) at ice bath temperature. 1-Allyl-2-bromo-4,5-dicyanoimidazole (0.24 g) in dioxane was added and the mixture stirred at room temperature for 2 hours. Aqueous work up and silica gel column chromatography gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[(4,5-dicyano-1-allyl-1H-imidazol-2ylthio)methyl]-2H-1,2,3-triazole, m.p. 125°-127°. (Compound 24a)

reactant | 2-(2,6-Dichloro-4-trifluoromethylphenyl)-4-mercaptomethyl-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CS | C10H6Cl2F3N3S
reactant | sodium hydroxide | 0.04 g | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | 1-Allyl-2-bromo-4,5-dicyanoimidazole | 0.24 g | C(C=C)N1C(=NC(=C1C#N)C#N)Br | C8H5BrN4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[(4,5-dicyano-1-allyl-1H-imidazol-2ylthio)methyl]-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CSC=1N(C(=C(N1)C#N)C#N)CC=C | C18H10Cl2F3N7S
